US03976786
Chloroform (38 ml.) was added carefully to a stirred mixture of oleum (16.9 ml.: 20% free sulphur trioxide) and concentrated sulphuric acid (3.8 ml.) followed by 3,5-dinitro-2-methylbenzoic acid (10.0 g.). The mixture was warmed to 45°C. and sodium azide (3.28 g.) was added in small portions over 20 minutes, the temperature of the reaction mixture being kept between 45° and 50°C. by means of intermittent cooling. After the addition was complete, the mixture was stirred and heated under reflux for 1 hour on the steam bath and then the chloroform was removed by decantation and the residue was poured into ice-water (300 ml.). The yellow precipitate was filtered off, washed with water and dried, to give crude 3,5-dinitro-2-methylaniline (8.8 g.), m.p. 169°-171°C. The crude product was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate solution and then with water and the solvent was removed in vacuo. Trituration with petroleum ether (b.p. 40°-60°C.) gave 3,5-dinitro-2-methylaniline (7.5 g.), m.p. 172.5°-174.5°C.

reactant | oleum | 16.9 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | sulphuric acid | 3.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3,5-dinitro-2-methylbenzoic acid | 10.0 g | [N+](=O)([O-])C=1C(=C(C(=O)O)C=C(C1)[N+](=O)[O-])C | C8H6N2O6
reactant | sodium azide | 3.28 g | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Chloroform | 38 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dinitro-2-methylaniline | 7.5 g | [N+](=O)([O-])C=1C(=C(N)C=C(C1)[N+](=O)[O-])C | C7H7N3O4
